US04705864
N-[4-(hydroxyiminomethyl)phenyl]-N'-(1-methoxycarbonylethyl)urea is prepared as follows: A solution of 0.1 mol of 4-aminobenzaldehyde ethylene glycol acetal in 100 mL of anhydrous THF is added dropwise over 10 minutes to a solution of 0.1 mol and DL-alanine methyl ester isocyanate and 0.35 mol pyridine in 100 mL THF at room temperature under N2. The yellow reaction mixture is stirred at room temperature for 2 hours. After 1/2 hour a yellow-orange precipitate begins to form. After 2 hours the solvent is removed by rotary evaporator to give an orange, semisolid mass. A solution of 0.11 mol hydroxylamine hydrochloride and 0.1 mol trimethyl orthoformate in CH3OH is added, and the reaction mixture is heated to reflux under N2 for 1 hour. The reaction mixture is reduced to about 1/4 volume by rotary evaporator, and water is added. Off-white crystals of product form after 2 hours of stirring. The crystals are isolated by filtration and dried overnight in a vacuum oven at 50°-55° C. The yield of product (mp 143°-145.5° C.) is 60%.

reactant | DL-alanine methyl ester isocyanate | [N-]=C=O.COC(C(N)C)=O
reactant | pyridine | 0.35 mol | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 0.11 mol | Cl.NO
reactant | trimethyl orthoformate | 0.1 mol | C(OC)(OC)OC | C4H10O3
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | CH3OH | CO | CH4O
product | N-[4-(hydroxyiminomethyl)phenyl]-N'-(1-methoxycarbonylethyl)urea | ON=CC1=CC=C(C=C1)NC(=O)NC(C)C(=O)OC | C12H15N3O4
